US08476286B2
To a solution of 0.5 g (1.64 mmol) (2-amino-3-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone in 5 ml dichloromethane is added under inert atmosphere 3.3 ml (3.3 mmol) 1M solution of BBr3 in dichloromethane. After stirring for 48 h the reaction mixture is poured onto 1M aqueous thiosulfate solution and extracted with dichloromethane to yield (2-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone.

reactant | (2-amino-3-methoxy-phenyl)-(4-isopropyl-phenyl)-methanone | 1.64 mmol, 0.5 g | NC1=C(C=CC=C1OC)C(=O)C1=CC=C(C=C1)C(C)C | C17H19NO2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | thiosulfate | 1M | S(=S)(=O)([O-])[O-]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (2-amino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone | NC1=C(C=CC=C1O)C(=O)C1=CC=C(C=C1)C(C)C | C16H17NO2
